data/oMe_Silver.jsonl
{"reaction_id": "NR-238_1-c2ccoc2_2-c2ccc(C)cc2_3-c2ccccc2_4-CC","level": "medium","name": "Steglich Esterification","reactants_smiles": ["c2ccoc2C(=O)O","c2ccccc2N=C=NCC","c2ccc(C)cc2O","CN(C)c1ccncc1"],"products_smiles": ["c2ccc(C)cc2OC(=O)c2ccoc2"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c2ccoc2C(=O)OC(=[NH+]c2ccccc2)NCC","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)c2ccoc2","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(Oc2ccc(C)cc2)c2ccoc2","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccc(C)cc2OC(=O)c2ccoc2","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
{"reaction_id": "NR-240_1-c1ccc(OC)cc1_2-c1ccc(N(=O)=O)cc1_3-c1ccc(F)cc1_4-CC(C)C_5-C(=O)C","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["c1ccc(OC)cc1C(=O)C(c1ccc(N(=O)=O)cc1)[N+](c1ccc(F)cc1)(CC(C)C)C(=O)C","[Li]N(C(C)C)C(C)C"],"products_smiles": ["c1ccc(OC)cc1C(=O)C(c1ccc(N(=O)=O)cc1)(C(=O)C)N(c1ccc(F)cc1)(CC(C)C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C([O-])=C(c1ccc(N(=O)=O)cc1)[N+](c1ccc(F)cc1)(CC(C)C)C(=O)C","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(c1ccc(N(=O)=O)cc1)(C(=O)C)N(c1ccc(F)cc1)(CC(C)C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
